US08871756B2
Ethyl (2E)-3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-ethylquinolin-4-yl]prop-2-enoate
A mixture of 4-(4-chloro-6-ethylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (300 mg, 0.78 mmol), ethyl prop-2-enoate (170 mg, 1.70 mmol), triethylamine (1 mL) and N,N-dimethylformamide (2 mL), bis(tri-tert-butylphosphine)palladium(0) (15 mg, 0.02 mmol) was heated with stirring in a 10 mL of microwave process vial for 30 minutes at 100° C. under microwave irradiation. The reaction mixture was poured into water (5 mL) and extracted with ethyl acetate (10 mL×3). The organic layers were combined, washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluting with 20-40% ethyl acetate in petroleum ether) to afford 280 mg of the product as a white solid (yield was 80%). MS obsd. (ESI+) [(M+H)+] 451.

reactant | 4-(4-chloro-6-ethylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | 0.78 mmol, 300 mg | ClC1=CC(=NC2=CC=C(C=C12)CC)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C20H19ClN2O2S
reactant | ethyl prop-2-enoate | 1.70 mmol, 170 mg | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.02 mmol, 15 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | water | 5 mL | O | H2O
product | Ethyl (2E)-3-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-ethylquinolin-4-yl]prop-2-enoate | 280 mg, yield was 80% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)/C=C/C(=O)OCC)CC)=O | C25H26N2O4S
